US04612378
4.45 g of 2-mercaptobenzothiazole and 5 g of but-3-ene-1,2,3-tricarboxylic acid are ground together in a mortar. The powdered mixture is introduced in portions into 60 ml of 70% H2SO4 at 48°-50° in the course of 1 hour, with stirring. After a further 3 hours at 48°-50°, the reaction mixture is cooled to room temperature and diluted with 250 ml of water at 25°-30°, with stirring. The aqueous solution is decanted from a little glutinous sediment and diluted with a further 200 ml of water. After stirring for 1 hour, the precipitate is filtered off and dried. The 4-(benzothiazol-2-ylthio)-butane-1,2,3-tricarboxylic acid obtained has a melting point of 188°-190°, after recrystallisation from methanol/water.

reactant | 2-mercaptobenzothiazole | 4.45 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | but-3-ene-1,2,3-tricarboxylic acid | 5 g | C(C(C(=C)C(=O)O)C(=O)O)C(=O)O | C7H8O6
reactant | H2SO4 | 60 ml | OS(=O)(=O)O | H2O4S
solvent | water | 250 ml | O | H2O
product | 4-(benzothiazol-2-ylthio)-butane-1,2,3-tricarboxylic acid | S1C(=NC2=C1C=CC=C2)SCC(C(CC(=O)O)C(=O)O)C(=O)O | C14H13NO6S2
